US04243609
A solution of 5 g of ethyl 3-fluoro-4-(hexadecanoylamino)benzoate in 50 ml of tetrahydrofuran is slowly added with stirring to 13 ml of 1 M borane in tetrahydrofuran. The resulting solution is then poured into 50 ml of 10% aqueous hydrochloric acid and the resulting mixture is filtered. The residue is crystallized from acetonitrile to yield ethyl 3-fluoro-4-(hexadecylamino)benzoate as white crystals.

reactant | ethyl 3-fluoro-4-(hexadecanoylamino)benzoate | 5 g | FC=1C=C(C(=O)OCC)C=CC1NC(CCCCCCCCCCCCCCC)=O | C25H40FNO3
reactant | borane | 1 M, 13 ml | B | BH3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 3-fluoro-4-(hexadecylamino)benzoate | FC=1C=C(C(=O)OCC)C=CC1NCCCCCCCCCCCCCCCC | C25H42FNO2
